US04946843
A mixture of 3.3 parts of 3-(2-ethoxyethyl)-2-[4-(1-piperazinyl)butyl]-3H-imidazo[4,5-b]pyridine, 2.9 parts of 2-(chloromethyl)-3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridine, 1.2 parts of sodium carbonate and 22.5 parts of N,N-dimethylacetamide was stirred for 6 hours at 70° C. The reaction mixture was evaporated and the residue was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was converted into the ethanedioate salt in 2-propanol. The salt was filtered off and crystallized from 2-propanol. The product was filtered off and dried, yielding 0.7 parts (6.8%) of 3-(2-ethoxyethyl)-2-[[4-[4-[3-(2-ethoxyethyl)-3H-imidazo-4,5-b]pyridin-2-yl]butyl]-1-piperazinyl]methyl]-3H-imidazo[4,5-b]pyridine ethanedioate(1:6); mp. 121.9° C. (compound 24).

reactant | 3-(2-ethoxyethyl)-2-[4-(1-piperazinyl)butyl]-3H-imidazo[4,5-b]pyridine | C(C)OCCN1C(=NC=2C1=NC=CC2)CCCCN2CCNCC2 | C18H29N5O
reactant | 2-(chloromethyl)-3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridine | ClCC1=NC=2C(=NC=CC2)N1CCOCC | C11H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 3H-imidazo[4,5-b]pyridine ethanedioate | C(C(=O)O)(=O)O.N1=CNC2=NC=CC=C21 | InChI=1S/C6H5N3.C2H2O4/c1-2-5-6(7-3-1)9-4-8-5;3-1(4)2(5)6/h1-4H,(H,7,8,9);(H,3,4)(H,5,6)
